Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
bromide salts
 
Attending: ___
 
Chief Complaint:
L face, hand numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ right-handed woman with history of right cavernous
carotid aneurysm status post clipping in ___ by Dr. ___ at
___ with recent admission to neurosurgery from ___ for
headaches with subarachnoid hemorrhage and left thalamic 
infarct,
with normal diagnostic angiogram.  She presents to ED today with
new left-sided sensory symptoms, for which neurology is
consulted.

Regarding her recent admission, Ms. ___ presented with ___
months of headache which is worsened, emesis and right hemibody
sensory changes.  NCHCT showed right convexal subarachnoid
hemorrhage.  Given her history of cerebral aneurysm there is
concerned that this may represent an aneurysmal subarachnoid
hemorrhage, and she underwent diagnostic angiogram on ___, 
which
was unremarkable.  There was also concern that this may 
represent
RCVS, and she was started on verapamil.

Her new baseline deficits include right hemifacial numbness in
the V1-V3 distributions, right tongue paresthesias, right buccal
numbness, right hand numbness and paresthesiae extending
proximally, worse medially than laterally.  She also experiences
numbness and paresthesia of digits 345 on her right foot and 
some
paresthesia along the lateral aspect of her right lower leg.  
She
thinks that she has some clumsiness of her right arm, and notes
that she will sometimes crush or knock over a cup that she is
trying to pick up.
She also has a near-constant headache, typically right
hemicranium.  

Ms. ___ had a clinic visit with Dr. ___, who
told her that he felt that the etiology of her presentation was
still possibly RCVS, and he wanted to speak to Dr. ___ to see
what additional tests were needed and when.  She had been taking
Tylenol scheduled throughout the day to reach maximum dose of 4 
g
daily, and Dr. ___ her to decrease that to total daily
dose of 3 g.  Documentation of the clinic visit is not available
at this time.
She also had a cardiology appointment today for follow-up of
troponin anemia on presentation, and was told that "everything
seems okay" and that he would consider performing a stress test
in a few months.
Her scheduled follow-up with neurosurgery has not yet occurred.

Regarding her presentation today, she reports that throughout 
the
majority of the day she felt slightly more tired than usual.  At
approximately ___, after eating dinner, she stood up and felt
"odd".  She then sat back down and felt numbness/tightness of 
her
left face.  She looked in the mirror and noted that her left 
face
was not moving well.  Slightly less than an hour later she noted
paresthesia and numbness of her left thumb.  She presented to 
OSH
ED where ___ was performed, and revealed no acute hemorrhage. 
She states that her symptoms continue to evolve after that 
point,
and that the numbness in her face spread to involve her left lip
during transfer from OSH to ___.

 
Past Medical History:
R proximal ICA aneurysm clipping ___, osteoarthritis, psoriatic 
arthritis, crohn's disease, giant cell arteritis, bowel 
resection, lg hiatal hernia repair, unsteady gait/frequent falls 
(last fall 3 mos ago), L hip replacement, MI - during induction 
of anesthesia likely catecholamine storm, HTN, HLD, PNA, L-spine 
discectomy, anxiety, depression, dry mouth, insomnia, GERD, 
frequent bowel obstructions
 
Social History:
___
Family History:
(Obtained from medical record)
Father died ___ of blood disease
Sister died ___ after seizures became anoxic with cardiac arrest
Sister with depression
Brother died ___ of aids
Brother ___ with MI and high cholesterol
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General: Awake, cooperative, NAD.
HEENT: no scleral icterus, MMM, no oropharyngeal lesions. 
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Skin warm, well-perfused. 
Abdomen: soft, ND
Extremities: Symmetric, no edema. 

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Attentive, able to name perform
serial sevens. Speech is fluent with normal grammar and syntax.
No paraphasic errors. Naming intact to low frequency words.
Repetition intact. Comprehension intact to complex, cross-body
commands. 

-Cranial Nerves: Physiologic and supportive.  Right pupil 4->2,
left pupil3.5->2.  VFF to confrontation. EOMI without nystagmus.
Facial sensation decreased to light touch everywhere except left
V1 distribution. Face symmetric at rest and with activation.
Hearing intact to conversation. Palate elevates symmetrically.
___ strength in trapezii bilaterally. Tongue protrudes in 
midline
and moves briskly to each side.

- Motor:  No pronator drift. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  ___   5     5     5   5
R  5    ___   ___  4+* 4+* 4+* 5     5     5   5
*Patient notes prior left hip replacement, and states that since
then her left leg has been "her weak leg"

-DTRs:
  Bi Tri ___ Pat Ach Pec jerk   Crossed Abductors
L  3  2    3    2*  0                        
R  3  2    3    2*  2
*Left more brisk than right                      
Plantar response was mute bilaterally.

-Sensory: Decreased sensation to light touch, temperature, all
are you eat, more severely decreased over the right hand and
medial aspect of right forearm, left thumb, right foot and toes 
3
through 5, and lateral aspect of right lower leg.  Otherwise,
sensation intact to light touch, temperature throughout. 
Proprioception intact to median but not small excursions at the
toes bilaterally.  

- Coordination: Subtle bilateral dysmetria with finger to nose
testing bilaterally.  Large and fine rapid alternating movements
are clumsy, dysrhythmic, and mismeasured bilaterally.

- Gait: Deferred

DISCHARGE PHYSICAL EXAM:
Neurologic Examination:

Mental status exam: A&Ox3. Attentive, able to perform serial 7's
backward and days of the week backwards. Language is fluent with
intact repetition, comprehension and no paraphasic error. Normal
prosody. Naming intact to low and high frequency words. No
dysarthria with speech and able to follow midline, appendicular
and cross-midline commands. No evidence of apraxia or neglect.

Cranial nerve exam: 
CN II, III, IV, VI: PERRL R 4->3 and L 3->2. EOMI w/o nystagmus.
Normal saccades. VFF to confrontation. 
CN V: Facial sensation decreased to LT on the R (V1-->V3)>L
(V2-->V3)
CN VII: No facial droop, symmetric facial musculature w/ intact
strength
CN VIII: Hearing intact to finger rub bilaterally. 
CN IX, X: Uvula midline, palate elevates symmetrically
CN XI: ___ strength in SCM and trapezius bilaterally
CN XII: Tongue protrudes midline.

Motor: normal bulk, tone throughout. No asterixis bilaterally. 
No
adventitious movements such as tremor noted. Pronator drift
negative although rebound present bilaterally, more prominent on
the R. 
 Delt Bic  Tri  ECR  FEx  IO  APB  IP  Quad Ham  TA  Gas  ___ 

L  ___     5    5    5    5   5    5    5    5   5    5
R  ___     5    5    5    5   4+*  4+*  4+*  5   5    5
*Prior L hip replacement w/ long-standing weakness

-DTRs:

   Bi   Tri ___ Pat Ach 
L  3    2     3    2   2                        
R  3    2     3    2   2

-Sensory: Decreased sensation to LT and temperature decreased
over the R hand/forearm/foot and toes ___. Very mildly decreased
sensation to LT in L thumb. Otherwise intact throughout.
Proprioception intact to median but not small excursions in 
toes. Vibration sensation intact throughout.

- Coordination: Subtle bilateral dysmetria with finger to nose
testing bilaterally (more prominent on the R). Large and fine
rapid alternating movements are clumsy, dysrhythmic, and
mismeasured bilaterally.

- Gait: Able to ambulate without assistance
 
Pertinent Results:
___ 04:45AM BLOOD WBC-7.1 RBC-4.01 Hgb-12.5 Hct-38.1 MCV-95 
MCH-31.2 MCHC-32.8 RDW-12.0 RDWSD-42.0 Plt ___
___ 02:00AM BLOOD WBC-9.3 RBC-4.23 Hgb-13.5 Hct-40.6 MCV-96 
MCH-31.9 MCHC-33.3 RDW-12.4 RDWSD-43.9 Plt ___
___ 02:00AM BLOOD Neuts-59.3 ___ Monos-9.0 Eos-3.8 
Baso-0.8 Im ___ AbsNeut-5.53 AbsLymp-2.45 AbsMono-0.84* 
AbsEos-0.35 AbsBaso-0.07
___ 02:00AM BLOOD ___ PTT-24.4* ___
___ 04:45AM BLOOD Glucose-110* UreaN-10 Creat-0.8 Na-138 
K-4.3 Cl-100 HCO3-25 AnGap-17
___ 02:00AM BLOOD Glucose-89 UreaN-13 Creat-0.8 Na-140 
K-4.1 Cl-103 HCO3-23 AnGap-18
___ 04:45AM BLOOD Calcium-9.3 Phos-4.9* Mg-2.1
___ 02:00AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___
CTA HEAD & NECK
Noncon Head CT: 
Patient is status post clipping of a right internal carotid
artery aneurysm. Streak artifact from aneurysm clip limits
evaluation. No evidence of acute hemorrhage, infarction, mass, 
or
edema. No evidence of acute fracture. 
  
CTA Head/neck: 
No evidence of additional aneurysm. No evidence of
carotid/vertebral stenosis. 

MR head w&w/o contrast:
1. No evidence of new intracranial infarction. Known late
subacute or early 
chronic infarction is again noted. 
2. No evidence of new intracranial hemorrhage. Perhaps trace
residual 
subarachnoid hemorrhage in the right superior frontal sulcus. 
 
Brief Hospital Course:
Ms. ___ was hospitalized at ___ due to new left face 
(V2-V3) and L thumb numbness concerning for recurrent stroke in 
setting of previous concern for RCVS. She was maintained on her 
home medications including Verapamil and underwent CT and 
MRI/MRA with no new ischemic stroke found. On this imaging, her 
previous convexal SAH was seen to have appropriately improved in 
volume. Her home Verapamil was increased from 120mg BID to 
___. She was evaluated by ___ and discharged home with 
close follow up as well as outpatient ___.

Transition Issues:
-Pt will need to continue taking Verapamil at increased dosage 
of 120/180 from 120 BID
-Pt will need to follow up with Neurology and Neurosurgery as 
outpatient
-Pt will need to work with outpatient ___ to improve her 
functional status 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 12.5 mg PO DAILY 
2. Tranylcypromine Sulfate 10 mg PO QPM 
3. Tranylcypromine Sulfate 20 mg PO QAM 
4. Methocarbamol 500 mg PO QHS 
5. Omeprazole 20 mg PO DAILY 
6. Atorvastatin 80 mg PO QPM 
7. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
8. ClonazePAM 0.5 mg PO QID 
9. Docusate Sodium 100 mg PO BID:PRN as needed 
10. DICYCLOMine 20 mg PO QID:PRN as needed 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN as needed 
13. FoLIC Acid 1 mg PO DAILY 
14. Hyoscyamine 0.125 mg PO Q6H:PRN as needed 
15. Lidocaine 5% Ointment 1 Appl TP BID:PRN as needed 
16. Loratadine 10 mg PO DAILY:PRN as needed 
17. LORazepam 0.5 mg PO Q4H:PRN as needed 
18. Meclizine 25 mg PO TID as needed 
19. Ferrous Sulfate Dose is Unknown  PO DAILY 
20. Ondansetron ODT 8 mg PO Q8H:PRN as needed 
21. Polyethylene Glycol 17 g PO DAILY:PRN as needed 
22. PredniSONE 20 mg PO DAILY 
23. Prochlorperazine 5 mg PO Q6H:PRN as needed 
24. QUEtiapine Fumarate 100 mg PO QHS 
25. Senna 17.2 mg PO QHS 
26. Simethicone 40-80 mg PO QID:PRN as needed 
27. Tranylcypromine Sulfate 20 mg PO QHS 
28. Verapamil SR 120 mg PO BID 
29. Vitamin D ___ UNIT PO DAILY 
30. Zinc Sulfate 50 mg PO BID 
31. magnesium 200 mg oral BID 

 
Discharge Medications:
1.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN Congestion  
2.  Ferrous Sulfate 325 mg PO DAILY  
3.  PredniSONE 7.5 mg PO DAILY  
4.  Verapamil SR 120 mg PO QAM 
RX *verapamil 120 mg 1 tablet(s) by mouth Every morning Disp 
#*30 Tablet Refills:*2 
5.  Verapamil SR 180 mg PO QPM 
RX *verapamil 180 mg 1 tablet(s) by mouth Every evening Disp 
#*30 Tablet Refills:*2 
6.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
7.  Atenolol 12.5 mg PO DAILY  
8.  Atorvastatin 80 mg PO QPM  
9.  ClonazePAM 0.5 mg PO QID  
10.  DICYCLOMine 20 mg PO QID:PRN as needed  
11.  Docusate Sodium 100 mg PO BID:PRN as needed  
12.  Fish Oil (Omega 3) 1000 mg PO DAILY  
13.  Fluticasone Propionate 110mcg 1 PUFF IH BID:PRN as needed  
14.  FoLIC Acid 1 mg PO DAILY  
15.  Hyoscyamine 0.125 mg PO Q6H:PRN as needed  
16.  Lidocaine 5% Ointment 1 Appl TP BID:PRN as needed  
17.  Loratadine 10 mg PO DAILY:PRN as needed  
18.  LORazepam 0.5 mg PO Q4H:PRN as needed  
19.  magnesium 200 mg oral BID  
20.  Meclizine 25 mg PO TID as needed  
21.  Methocarbamol 500 mg PO QHS  
22.  Omeprazole 20 mg PO DAILY  
23.  Ondansetron ODT 8 mg PO Q8H:PRN as needed  
24.  Polyethylene Glycol 17 g PO DAILY:PRN as needed  
25.  Prochlorperazine 5 mg PO Q6H:PRN as needed  
26.  QUEtiapine Fumarate 100 mg PO QHS  
27.  Senna 17.2 mg PO QHS  
28.  Simethicone 40-80 mg PO QID:PRN as needed  
29.  Tranylcypromine Sulfate 10 mg PO QPM  
30.  Tranylcypromine Sulfate 20 mg PO QAM  
31.  Tranylcypromine Sulfate 20 mg PO QHS  
32.  Vitamin D ___ UNIT PO DAILY  
33.  Zinc Sulfate 50 mg PO BID  
34.Outpatient Physical Therapy
35.Outpatient Physical Therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were hospitalized due to symptoms of L face and hand 
numbness concerning for an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
previous strokes
We are changing your medications as follows:
Please increase Verapamil to 120mg in the morning and 180mg in 
the evening. Please work with ___ as an outpatient. Please do not 
engage in high-intensity exercise but light exercise is fine. 
Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___